### PR TITLE
[Merged by Bors] - feat(maxHeartbeats linter): `maxHeartbeats` require a comment

### PR DESCRIPTION
**Pull request by adomani**
The option `linter.style.maxHeartbeats` of the deprecated syntax linter flags usages of
```lean
set_option maxHeartbeats n in
-- comment whose absence is picked up by the linter
cmd
```
that do not add a comment explaining the reason for the modification of the `maxHeartbeats`.

The linter also also flags `synthInstance.maxHeartbeats`.

[Zulip](https://github.com/leanprover-community/mathlib4/pull/new/adomani/maxHeartbeats_comment)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Tactic/Linter/DeprecatedSyntaxLinter.lean [hunk 1]
```diff
@@ -89,11 +121,13 @@ replacement syntax. For each individual case, linting can be turned on or off se
 * `refine'`, superseded by `refine` and `apply` (controlled by `linter.style.refine`)
 * `cases'`, superseded by `obtain`, `rcases` and `cases` (controlled by `linter.style.cases`)
 * `admit`, superseded by `sorry` (controlled by `linter.style.admit`)
+* `set_option maxHeartbeats`, should contain a comment (controlled by `linter.style.maxHeartbeats`)
 -/
-def deprecatedSyntaxLinter : Linter where run := withSetOptionIn fun stx => do
+def deprecatedSyntaxLinter : Linter where run stx := do
```
Comment (adomani) [inline Mathlib/Tactic/Linter/DeprecatedSyntaxLinter.lean:126]: The reason for this change is that otherwise leading `set_option`s would be invisible to the linter.

File: MathlibTest/DeprecatedSyntaxLinter.lean [hunk 2]
```diff
@@ -77,3 +77,25 @@ warning: declaration uses 'sorry'
...
+section
+
+#guard_msgs in
+set_option maxHeartbeats 10 in
+-- no reason, but has a comment
+section
+
+#guard_msgs in
+set_option maxHeartbeats 10 in
+/- no reason, but has a comment -/
```
Comment (grunweg) [inline MathlibTest/DeprecatedSyntaxLinter.lean:100]: Does this also work with doc-comments? (I don't have an opinion if it should, but a test could be nice :-))

File: Mathlib/Tactic/Linter/DeprecatedSyntaxLinter.lean (hunk 1 above)
Comment (grunweg) [reply Mathlib/Tactic/Linter/DeprecatedSyntaxLinter.lean:126]: Makes sense. Does that effect a change to the other linters; i.e. does a `set_option linter.refine true in` still have the same effect? (Is that tested already?)

**Review by grunweg — COMMENTED** [review]
Thanks for writing this; a few comments.

File: Mathlib/Tactic/Linter/DeprecatedSyntaxLinter.lean [hunk 3]
```diff
@@ -89,11 +121,13 @@ replacement syntax. For each individual case, linting can be turned on or off se
 * `refine'`, superseded by `refine` and `apply` (controlled by `linter.style.refine`)
 * `cases'`, superseded by `obtain`, `rcases` and `cases` (controlled by `linter.style.cases`)
 * `admit`, superseded by `sorry` (controlled by `linter.style.admit`)
+* `set_option maxHeartbeats`, should contain a comment (controlled by `linter.style.maxHeartbeats`)
```
[the remark this answers is not in the document]
Comment (adomani) [reply Mathlib/Tactic/Linter/DeprecatedSyntaxLinter.lean]: Added!

File: Mathlib/Tactic/Linter/DeprecatedSyntaxLinter.lean (hunk 1 above)
Comment (adomani) [reply Mathlib/Tactic/Linter/DeprecatedSyntaxLinter.lean:127]: There are tests for the other linters, but they should not be affected, since they do not check a `set_option ... in` syntax.

File: MathlibTest/DeprecatedSyntaxLinter.lean (hunk 2 above)
Comment (adomani) [reply MathlibTest/DeprecatedSyntaxLinter.lean:100]: No, doc-comments are actually syntax *nodes*, so they are only valid there if they are attached to the following command.

**Review by adomani — COMMENTED** [review]
Michael, thanks for the quick review!

In fact, I was still fixing the exceptions, when I read your comments!

File: Mathlib/Tactic/Linter/DeprecatedSyntaxLinter.lean [hunk 4]
```diff
@@ -80,6 +102,16 @@ def getDeprecatedSyntax : Syntax → Array (SyntaxNodeKind × Syntax × MessageD
       rargs.push (kind, stx,
         "The `admit` tactic is discouraged: \
          please strongly consider using the synonymous `sorry` instead.")
+    | ``Lean.Parser.Command.in =>
+      match getSetOptionMaxHeartbeatsComment stx with
```
[the remark this answers is not in the document]
Comment (adomani) [reply Mathlib/Tactic/Linter/DeprecatedSyntaxLinter.lean:106]: I'd rather not, since there is already a `if ... then ... else ...` branch in one of the two match arms and I think that the current form is easier to read.

[the remark this answers is not in the document]
Comment (grunweg) [reply Mathlib/Tactic/Linter/DeprecatedSyntaxLinter.lean:106]: I'm not convinced - but we can agree to disagree; I don't feel strongly in any case.

File: Mathlib/Tactic/Linter/DeprecatedSyntaxLinter.lean (hunk 1 above)
Comment (grunweg) [reply Mathlib/Tactic/Linter/DeprecatedSyntaxLinter.lean:127]: Yes, but I thought the `withSetOptionIn` had the effect of enabling/disabling the linter if it was inside an (e.g.) `set_option linter.style.refine false in ...` block. Does that still work (say, because the `Linter.getLinterValue` picks up the option change)?

File: MathlibTest/DeprecatedSyntaxLinter.lean (hunk 2 above)
Comment (grunweg) [reply MathlibTest/DeprecatedSyntaxLinter.lean:100]: Do you think a test for this would be useful?

File: Mathlib/Algebra/Category/BialgebraCat/Monoidal.lean [hunk 5]
```diff
@@ -61,8 +61,8 @@ noncomputable instance instMonoidalCategory : MonoidalCategory (BialgebraCat R)
 /-- `forget₂ (BialgebraCat R) (AlgebraCat R)` as a monoidal functor. -/
 noncomputable instance : (forget₂ (BialgebraCat R) (AlgebraCat R)).Monoidal where
 
-#adaptation_note /-- nightly-2025-02-18: added `maxHeartbeats` --/
 set_option maxHeartbeats 400000 in
+-- nightly-2025-02-18: added `maxHeartbeats`
```
Comment (grunweg) [inline Mathlib/Algebra/Category/BialgebraCat/Monoidal.lean:65]: This is not ideal - but since `set_option maxHeartbeats` is also tracked as technical debt, I guess this is fine.

File: Mathlib/Algebra/Category/Ring/Adjunctions.lean [hunk 6]
```diff
@@ -91,9 +91,9 @@ instance : HasForget₂ CommRingCat CommMonCat where
   forget₂ := { obj M := .of M, map f := CommMonCat.ofHom f.hom }
   forget_comp := rfl
 
-#adaptation_note /-- nightly-2025-03-25
-`simp` is taking longer after nightly-2025-03-25. -/
 set_option maxHeartbeats 400000 in
+-- nightly-2025-03-25
```
Comment (grunweg) [inline Mathlib/Algebra/Category/Ring/Adjunctions.lean:95]: Remove the first line, as it's now redundant?

File: Mathlib/GroupTheory/Coxeter/Matrix.lean [hunk 7]
```diff
@@ -108,9 +108,9 @@ def Aₙ : CoxeterMatrix (Fin n) where
   diagonal := by simp
   off_diagonal := by aesop
 
-#adaptation_note /-- nightly-2025-03-25
-Requires more heartbeats after nightly-2025-03-25. -/
 set_option maxHeartbeats 400000 in
+-- nightly-2025-03-25
```
Comment (grunweg) [inline Mathlib/GroupTheory/Coxeter/Matrix.lean:112]: Idem

File: Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean [hunk 8]
```diff
@@ -261,9 +261,9 @@ private lemma induction_structure (n : ℕ)
         Ideal.Quotient.mk_singleton_self, ne_eq, not_true_eq_false, false_or] at h_eq
       exact hi h_eq
 
-#adaptation_note /-- nightly-2025-03-25
-Requires more heartbeats after nightly-2025-03-25. -/
 set_option maxHeartbeats 400000 in
+-- nightly-2025-03-25
```
Comment (grunweg) [inline Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean:265]: Idem

File: Mathlib/Tactic/Linter/DeprecatedSyntaxLinter.lean (hunk 4 above)
[the remark this answers is not in the document]
Comment (adomani) [reply Mathlib/Tactic/Linter/DeprecatedSyntaxLinter.lean:113]: In case someone else also has a preference, this is the alternative:
```lean
      if let some (opt, n, trailing) := getSetOptionMaxHeartbeatsComment stx then
        -- Since we are now seeing the currently outermost `maxHeartbeats` option,
        -- we remove all subsequence potential flags and only decide whether to lint or not
        -- based on whether the current option has a comment.
        let rargs := rargs.filter (·.1 != `MaxHeartbeats)
        if trailing.toString.trimLeft.isEmpty then
          rargs.push (`MaxHeartbeats, stx,
            s!"Please, add a comment explaining the need for modifying the maxHeartbeat limit, \
              as in\nset_option {opt} {n} in\n-- reason for change\n...\n")
        else
          rargs
      else
        rargs
```

**Review by adomani — COMMENTED** [review]
A second batch of comments and now linting also `synthInstance`.

**Comment by adomani** [comment]
!bench

File: MathlibTest/DeprecatedSyntaxLinter.lean [hunk 9]
```diff
@@ -77,3 +82,69 @@ warning: declaration uses 'sorry'
...
+-- reason for change
+...
+ note: this linter can be disabled with `set_option linter.style.maxHeartbeats false`
+-/
+#guard_msgs in
+set_option maxHeartbeats 10 in
+set_option synthInstance.maxHeartbeats 10 in
+/- The comment here is not enough to silence the linter:
+the *first* `maxHeartbeats` option should have a comment. -/
+section
```
Comment (grunweg) [inline MathlibTest/DeprecatedSyntaxLinter.lean:133]: For paraoina or readers who just read this test, not the implementation: add another version where the outer set_option has a comment, but the inner one does not?

File: Mathlib/Tactic/Linter/DeprecatedSyntaxLinter.lean [hunk 10]
```diff
@@ -62,11 +62,40 @@ register_option linter.style.admit : Bool := {
   descr := "enable the admit linter"
 }
 
+/-- The option `linter.style.maxHeartbeats` of the deprecated syntax linter flags usages of
+`set_option maxHeartbeats n in cmd` that do not add a comment explaining the reason for the
```
Comment (grunweg) [inline Mathlib/Tactic/Linter/DeprecatedSyntaxLinter.lean:66]: Can you update this comment to mention synthInstance.maxHeartbeats also?

File: Mathlib/Tactic/Linter/DeprecatedSyntaxLinter.lean [hunk 11]
```diff
@@ -62,11 +62,40 @@ register_option linter.style.admit : Bool := {
...
+modification of the maxHeartbeats. -/
+register_option linter.style.maxHeartbeats : Bool := {
+  defValue := false
+  descr := "enable the maxHeartbeats linter"
+}
+
+/-- If the input syntax is of the form `set_option <option> num in <string> cmd`,
+where `<option>` contains `maxHeartbeats`, then it returns
+* the `<option>` as a name (typically, `maxHeartbeats` or `synthInstance.maxHeartbeats`);
```
Comment (grunweg) [inline Mathlib/Tactic/Linter/DeprecatedSyntaxLinter.lean:75]: Just a grammar nerd question, not important: my (non-native speaker) intuition would be to use a comma. Do you know a rule which I don't, then I'll happily learn :-)

File: Mathlib/Tactic/Linter/DeprecatedSyntaxLinter.lean [hunk 12]
```diff
@@ -62,11 +62,40 @@ register_option linter.style.admit : Bool := {
...
+def getSetOptionMaxHeartbeatsComment : Syntax → Option (Name × Nat × Substring)
+  | stx@`(command|set_option $mh $n:num in $_) =>
+    let opt := mh.getId
+    if !opt.components.contains `maxHeartbeats then
+      none
+    else
+      if let some inAtom := stx.find? (·.getAtomVal == "in") then
+        inAtom.getTrailing?.map (opt, n.getNat, ·)
+      else
+        some default
```
Comment (grunweg) [inline Mathlib/Tactic/Linter/DeprecatedSyntaxLinter.lean:91]: This branch should never be hit, right?

File: Mathlib/Tactic/Linter/DeprecatedSyntaxLinter.lean [hunk 13]
```diff
@@ -80,6 +109,20 @@ def getDeprecatedSyntax : Syntax → Array (SyntaxNodeKind × Syntax × MessageD
       rargs.push (kind, stx,
         "The `admit` tactic is discouraged: \
          please strongly consider using the synonymous `sorry` instead.")
+    | ``Lean.Parser.Command.in =>
+      match getSetOptionMaxHeartbeatsComment stx with
+      | none => rargs
+      | some (opt, n, trailing) =>
+        -- Since we are now seeing the currently outermost `maxHeartbeats` option,
+        -- we remove all subsequence potential flags and only decide whether to lint or not
```
Comment (grunweg) [inline Mathlib/Tactic/Linter/DeprecatedSyntaxLinter.lean:117]:
```suggestion
        -- we remove all subsequent potential flags and only decide whether to lint or not

**Review by grunweg — COMMENTED** [review]
Thanks again for the quick reply - that's a fun way to develop linters! This basically looks good to me, I just have a couple of minor polishing points.

And, well, I have a question about scope creep: should `set_option maxHeartbeats` (without the `in`) also be linted? (Do we simply want to ban them in mathlib, and require localised bumps instead? If so, that could certainly be a separate linter or follow-up PR.)

**Comment by grunweg** [comment]
About performance: I'm a bit surprised the effect in instructions is that large - but at the same time not too worried. If there's a way to speed this up, that's nice, but I'm personally not losing sleep over it.

File: Mathlib/Tactic/Linter/DeprecatedSyntaxLinter.lean (hunk 10 above)
Comment (adomani) [reply Mathlib/Tactic/Linter/DeprecatedSyntaxLinter.lean:66]: Done.

File: Mathlib/Tactic/Linter/DeprecatedSyntaxLinter.lean (hunk 11 above)
Comment (adomani) [reply Mathlib/Tactic/Linter/DeprecatedSyntaxLinter.lean:75]: I am not sure: I added a comma.

File: Mathlib/Tactic/Linter/DeprecatedSyntaxLinter.lean (hunk 12 above)
Comment (adomani) [reply Mathlib/Tactic/Linter/DeprecatedSyntaxLinter.lean:91]: I agree with you: this branch should be unreachable.  I added a comment.

File: MathlibTest/DeprecatedSyntaxLinter.lean (hunk 9 above)
Comment (adomani) [reply MathlibTest/DeprecatedSyntaxLinter.lean:133]: Comment added!

**Review by adomani — COMMENTED** [review]
Thanks, Michael!  I accepted all your comments!

**Comment by adomani** [comment]
With respect to `set_option maxHeartbeats` with no `in`: isn't there already a `set_option` linter?  Maybe that linter could take this over?

**Comment by adomani** [comment]
Bench results: I'm also a little surprised, since the only extra check is reading the option for virtually all commands: if there is no `set_option ... in`, the "new" code is not run.

**Review by grunweg — COMMENTED** [review]
Thanks! Let's handle the bare set_option in another linter, and a follow-up. (Would you like to make a PR or shall I?)
maintainer merge

**Comment by adomani** [comment]
> Thanks! Let's handle the bare set_option in another linter, and a follow-up. (Would you like to make a PR or shall I?) maintainer merge

Perfect! If you have the capacity to make the PR, go ahead: I am a little short for time at the moment.

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge

**Comment by grunweg** [comment]
Created #23902 for the bare set_option maxHeartbeats.
